US07825244B2
b. 4-{7-[3-(1H-Tetrazol-5-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[7-(3-Cyano-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (24.5 mg, 62 μmol), as prepared in the preceding step, NaN3 (13.4 mg, 206 μmol), TEA.HCl (25.5 mg, 185 μmol), and toluene (100 μL) was tightly capped and stirred at 100° C. for 6.5 hr. The reaction was then allowed to cool to rt, partitioned with EtOAc (1 mL) and 0. 1 M HCl (1 mL). The aqueous layer was then extracted with EtOAc (2×1 mL), the organic layers were combined, dried (Na2SO4), and concentrated. The residue was purified via flash silica chromatography (3:2 EtOAc/acetone) to yield the title intermediate as an off-white solid (12.2 mg, 44%). LC/MS (ESI) calcd mass 439.2, found 440.1 (MH)+.

reactant | 4-[7-(3-Cyano-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 62 μmol, 24.5 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCC#N | C22H28N4O3
reactant | NaN3 | 206 μmol, 13.4 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 185 μmol, 25.5 mg | Cl | ClH
solvent | toluene | 100 μL | C1(=CC=CC=C1)C | C7H8
product | 4-{7-[3-(1H-Tetrazol-5-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | 12.2 mg, 44% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCC1=NN=NN1 | C22H29N7O3
